US07951824B2
4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid (5-methyl-pyridin-2-yl)-amide
The title compound, was prepared from 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 2-Amino-5-methylpyridine instead of 3-chloroaniline to yield the final compound as a white crystalline, MS (ISP): m/e=340.2 (M+H)+.

reactant | 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C15H13F2NO2
reactant | 2-Amino-5-methylpyridine | NC1=NC=C(C=C1)C | C6H8N2
product | 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid (5-methyl-pyridin-2-yl)-amide | CC=1C=CC(=NC1)NC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C19H15F2N3O
